US09359338B2
Step 1: Synthesis of tert-butyl 4-[1-[3-[[4-[[2-(cyclopropanecarbonylamino)-4-pyridyl]oxy]-3-fluoro-phenyl]carbamoyl amino]-5-(trifluoromethyl)phenyl]ethyl]piperazine-1-carboxylate
Add phenyl N-[4-[[2-(cyclopropanecarbonylamino)-4-pyridyl]oxy]-3-fluoro-phenyl]carbamate (220 mg, 0.53 mmol), tert-butyl 4-[1-[3-amino-5-(trifluoromethyl)phenyl]-ethyl]piperazine-1carboxylate (165 mg, 0.442 mmol) and DIEA (120 mg, 0.88 mmol) in THF (10 mL), stir the reaction under N2 at 80° C. for 12 hrs. Concentrate under reduced pressure to give the crude product. Purification by chromatography (silica gel, EtOAc:PE=1:1) affords the title compound (230 mg, 75.6%).

reactant | phenyl N-[4-[[2-(cyclopropanecarbonylamino)-4-pyridyl]oxy]-3-fluoro-phenyl]carbamate | 0.53 mmol, 220 mg | C1(CC1)C(=O)NC1=NC=CC(=C1)OC1=C(C=C(C=C1)NC(OC1=CC=CC=C1)=O)F | C22H18FN3O4
reactant | tert-butyl 4-[1-[3-amino-5-(trifluoromethyl)phenyl]-ethyl]piperazine-1carboxylate | 0.442 mmol, 165 mg | NC=1C=C(C=C(C1)C(F)(F)F)C(C)N1CCN(CC1)C(=O)OC(C)(C)C | C18H26F3N3O2
reactant | DIEA | 0.88 mmol, 120 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-[1-[3-[[4-[[2-(cyclopropanecarbonylamino)-4-pyridyl]oxy]-3-fluoro-phenyl]carbamoyl amino]-5-(trifluoromethyl)phenyl]ethyl]piperazine-1-carboxylate | 230 mg, 75.6% | C1(CC1)C(=O)NC1=NC=CC(=C1)OC1=C(C=C(C=C1)NC(=O)NC=1C=C(C=C(C1)C(F)(F)F)C(C)N1CCN(CC1)C(=O)OC(C)(C)C)F | C34H38F4N6O5
